US06638928B1
Reaction of 3-(3,4-dimethoxyphenyl)pentan-2-ol with 4-methoxy-3-(phenyl-methoxy)benzaldehyde to yield 4-(4-ethyl-6,7-dimethoxy-3-methyliso-chromanyl)-1-methoxy-2-(phenylmethoxy)benzene.

reactant | 3-(3,4-dimethoxyphenyl)pentan-2-ol | COC=1C=C(C=CC1OC)C(C(C)O)CC | C13H20O3
reactant | 4-methoxy-3-(phenyl-methoxy)benzaldehyde | COC1=C(C=C(C=O)C=C1)OCC1=CC=CC=C1 | C15H14O3
product | 4-(4-ethyl-6,7-dimethoxy-3-methyliso-chromanyl)-1-methoxy-2-(phenylmethoxy)benzene | C(C)C1C(OC(C2=CC(=C(C=C12)OC)OC)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)C | C28H32O5
